** sch_path: /foss/designs/ChipAcharya/DSM/DSM_1storder/xschem/tb_ClkG.sch
**.subckt tb_ClkG
Vsup VDD GND dc {vdd}
Vss VSS GND dc 0
Vp1 clkin GND dc 0 pulse(0, {vdd}, 0, 100p, 100p, 2.25n, 4.5n)
C4 p2 GND {cl} m=1
C5 p1 GND {cl} m=1
x1 clkin p1 p2 ClkG
**** begin user architecture code


.param temp=27 vdd=3 per=4.5n cl=25f
.option method=gear

.control
save all
tran 10p 15n
meas tran tp1_p2  TRIG v(p1)  VAL=0.6 FALL=1 TARG v(p2) VAL=0.6 RISE=1
plot p1 p2
write tb_clkgen.raw
.endc



.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice

**** end user architecture code
**.ends

* expanding   symbol:  ClkG.sym # of pins=3
** sym_path: /foss/designs/ChipAcharya/DSM/DSM_1storder/xschem/ClkG.sym
** sch_path: /foss/designs/ChipAcharya/DSM/DSM_1storder/xschem/ClkG.sch
.subckt ClkG clkin p1 p2
*.ipin clkin
*.opin p1
*.opin p2
xn1 net2 clkin net1 VDD VSS sg13g2_nand2_2
xi2 clkinb clkin VDD VSS sg13g2_inv_2
xn2 net1 net2 clkinb VDD VSS sg13g2_nand2_2
xi3 p1 net2 VDD VSS sg13g2_inv_4
xi4 p2 net1 VDD VSS sg13g2_inv_4
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VSS
.end
